US08383644B2
(S)-2-{[(3S,8S)-7-tert-Butylcarbamoyl-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid
To a solution of (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester (25 mg) in DCM was added 2-isocyanato-2-methyl-propane (5 eq.) and the reaction stirred was at room temperature for 1 hour. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 792.

reactant | (S)-2-{[(3S,8S)-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester | 25 mg | COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3)=O | C42H47N3O7
reactant | 2-isocyanato-2-methyl-propane | 5 eq. | N(=C=O)C(C)(C)C | C5H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-7-tert-Butylcarbamoyl-3-(4-cyclohexylmethoxy-phenyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid | C(C)(C)(C)NC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3CCCCC3 | C46H54N4O8
